US08022062B2
5-Aminomethyl-2-cyclohexylamino-pyridine:
Charge a solution of 6-cyclohexylamino-nicotinonitrile (1.4 g, 7.1 mmol) in methanol (70 mL) and trifluoroacetic acid (5 mL) to a pressure vessel containing 10% Pd/C (Degussa type E101, 600 mg). Pressurize the vessel to 40 psi with hydrogen and stir for 2 h. Filter the mixture through Celite®, wash with warm ethanol, and dichloromethane. Concentrate the filtrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with dichloromethane/2M ammonia in methanol (99:1 to 90:10 gradient) to obtain the title compound (920 mg, 54%). MS (ES+) m/z: 206.1 (M+H)+.

reactant | 6-cyclohexylamino-nicotinonitrile | 7.1 mmol, 1.4 g | C1(CCCCC1)NC1=NC=C(C#N)C=C1 | C12H15N3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 mL | CO | CH4O
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | 5-Aminomethyl-2-cyclohexylamino-pyridine | 920 mg, 54% | NCC=1C=CC(=NC1)NC1CCCCC1 | C12H19N3
